US07696234B2
2,6-Difluoro-4-(pyridin-2-ylmethoxy)-benzoic acid methyl ester
The title compound is prepared in a manner substantially analogous to Procedure E from 2,6-Difluoro-4-hydroxy-benzoic acid methyl ester and 2-(bromomethyl)pyridine hydrobromide. MS (ES+) 280

reactant | 2,6-Difluoro-4-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1F)O)F)=O | C8H6F2O3
reactant | 2-(bromomethyl)pyridine hydrobromide | Br.BrCC1=NC=CC=C1
product | 2,6-Difluoro-4-(pyridin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1F)OCC1=NC=CC=C1)F)=O | C14H11F2NO3
